US09388173B2
Step 2: 5-Bromo-N1-(tetrahydro-2H-pyran-4-yl)benzene-1,2-diamine
To a solution of N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine (2.5 g, 8.333 mmol) in EtOH/H2O (1:1) (50 mL) was added iron powder (2.8 g, 50 mmol) and NH4Cl (2.65 g, 50 mmol). The reaction mixture was heated at 60° C. for 12 h. After filtering the reaction mixture, the resulting filtrate was extracted with DCM with the separated organic layer dried over sodium sulfate, filtered and concentrated to obtain crude product which was used in next step without further purification.

reactant | N-(5-bromo-2-nitrophenyl)tetrahydro-2H-pyran-4-amine | 8.333 mmol, 2.5 g | BrC=1C=CC(=C(C1)NC1CCOCC1)[N+](=O)[O-] | C11H13BrN2O3
reactant | NH4Cl | 50 mmol, 2.65 g | [NH4+].[Cl-]
solvent | EtOH H2O | 50 mL | CCO.O
catalyst | iron | 50 mmol, 2.8 g | [Fe] | Fe
product | 5-Bromo-N1-(tetrahydro-2H-pyran-4-yl)benzene-1,2-diamine | BrC1=CC=C(C(=C1)NC1CCOCC1)N | C11H15BrN2O
